US07790770B2
A solution of 3-amino-4,4,4-trifluorobutanoic acid (628 mg, 4 mmol) and isobenzofuran-1,3-dione (592 mg, 4 mmol) in DMF (5 mL) was heated to 140° C. under microwave irradiation for 15 min. The reaction mixture was purified by preparative HPLC (Axia luna column, 30×75 mm, 10-100% ACN/H2O with 0.1% TFA over 10 min, flow rate 40 mL/min, monitoring at 220 nm) to yield 3-(1,3-dioxoisoindolin-2-yl)-4,4,4-trifluorobutanamide (620 mg, 54% yield). LCMS: RT=1.54 min [M+H] 288.2 (Phenomenex Luna C18 column, 4.6×30 mm eluting with 10-90% MeOH/H2O over 2 minutes containing 0.1% TFA; 5 mL/min, monitoring at 220 nm).

reactant | 3-amino-4,4,4-trifluorobutanoic acid | 4 mmol, 628 mg | NC(CC(=O)O)C(F)(F)F | C4H6F3NO2
reactant | isobenzofuran-1,3-dione | 4 mmol, 592 mg | C1(OC(C2=CC=CC=C12)=O)=O | C8H4O3
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-(1,3-dioxoisoindolin-2-yl)-4,4,4-trifluorobutanamide | 620 mg, 54% yield | O=C1N(C(C2=CC=CC=C12)=O)C(CC(=O)N)C(F)(F)F | C12H9F3N2O3
